US08222263B2
A mixture of methyl 4-methyl-3-[({4-[(4-phenylquinazolin-2-yl)amino]phenyl}carbonyl)amino]benzenecarboximidoate (50 mg, 0.10 mmol), formylhydrazine (30 mg, 0.5 mmol) and Hunig's base (17 μL, 0.20 mmol) in ethanol (2 mL) was heated to 150° C. in a sealed tube overnight. The reaction was cooled to rt and concentrated on a rotary evaporator. The residue was purified by preparative reverse phase HPLC to give N-[2-methyl-5-(1H-1,2,4-triazol-5-yl)phenyl]-4-[(4-phenylquinazolin-2-yl)amino]benzamide (10.9 mg, 22%) as a yellow solid. 1H NMR (400 MHz, DMSO-d6): δ 10.34 (s, 1H), 9.84-9.82 (m, 2H), 8.62 (s, 1H), 8.19 (d, 2H), 8.06-7.99 (m, 3H), 7.90-7.78 (m, 5H), 7.66-7.63 (m, 3H), 7.42 (ddd, 1H), 7.36 (d, 1H), 2.36 (s, 3H). MS (EI) for C30H23N7O: 498.2 (MH+).

reactant | methyl 4-methyl-3-[({4-[(4-phenylquinazolin-2-yl)amino]phenyl}carbonyl)amino]benzenecarboximidoate | 0.10 mmol, 50 mg | CC1=C(C=C(C=C1)C(OC)=N)NC(=O)C1=CC=C(C=C1)NC1=NC2=CC=CC=C2C(=N1)C1=CC=CC=C1 | C30H25N5O2
reactant | formylhydrazine | 0.5 mmol, 30 mg | C(=O)NN | CH4N2O
reactant | Hunig's base | 0.20 mmol, 17 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | N-[2-methyl-5-(1H-1,2,4-triazol-5-yl)phenyl]-4-[(4-phenylquinazolin-2-yl)amino]benzamide | 10.9 mg, 22% | CC1=C(C=C(C=C1)C1=NC=NN1)NC(C1=CC=C(C=C1)NC1=NC2=CC=CC=C2C(=N1)C1=CC=CC=C1)=O | C30H23N7O
